US07745641B2
In a similar manner to Step 1 of Example 347, isovanillic acid (5.00 g, 29.7 mmol) was suspended in dichloromethane (100 mL), and the suspension was treated with diisopropylethylamine (22.8 mL, 131 mmol) and chloromethyl methyl ether (4.96 mL, 65.4 mmol). The solvent was evaporated under reduced pressure. The residue was dissolved in methanol (50 mL) and treated with 4 mol/L aqueous potassium hydroxide solution (50 mL). The solvent was evaporated under reduced pressure. The residue was added with 4 mol/L hydrochloric acid. The precipitated solid was collected by filtration and washed with water, followed by drying under reduced pressure to obtain 3-methoxymethoxy-4-methoxybenzoic acid (4.82 g, yield 76%).

reactant | isovanillic acid | 29.7 mmol, 5.00 g | C(C1=CC(O)=C(OC)C=C1)(=O)O | C8H8O4
reactant | diisopropylethylamine | 131 mmol, 22.8 mL | C(C)(C)N(CC)C(C)C | C8H19N
reactant | chloromethyl methyl ether | 65.4 mmol, 4.96 mL | COCCl | C2H5ClO
solvent | dichloromethane | 100 mL | ClCCl | CH2Cl2
product | 3-methoxymethoxy-4-methoxybenzoic acid | 4.82 g, yield 76% | COCOC=1C=C(C(=O)O)C=CC1OC | C10H12O5
